US07919506B2
Preparation 33: 1-(2-{[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-1-cyclohexyl-ethanol
To a solution of (2-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-cyclohexyl-methanone (143 mg; 0.241 mmol) in tetrahydrofuran (2.5 mL) at 0° C. was added 3.0M methylmagnesium bromide in tetrahydrofuran (0.25 mL; 0.75 mmol). After 15 minutes, the bath was removed and reaction was stirred at room temperature for 3 hours. The reaction was quenched with 2 drops of water. The reaction was diluted with ethyl acetate and dried over sodium sulfate and concentrated under reduced pressure. The residue was purified over 12 g RediSep column (Teledyne Isco Inc., Lincoln Nebr.) (eluted with 10-50% ethyl acetate in heptane) to give 158 mg (108% yield) of a colorless oil. MS (ES+): Calc: 609.5, Found: 610.4 (M+H). 1H NMR (400 MHz, CDCl3) δ ppm 7.77 (s, 1H), 7.74 (s, 1H) 7.42 (m, 2H), 7.34 (d, J=8.30 Hz, 1H), 5.46 (d, J=16.18 Hz, 1H), 4.93 (d, J=16.60 Hz, 1H), 4.82 (q, J=16.18 Hz, 2H), 4.18 (s, 3H), 1.78-1.6 (m, 6H), 1.58 (s, 3H), 1.40 (m, 1H), 1.13-0.94 (m, 4H).

reactant | (2-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-cyclohexyl-methanone | 0.241 mmol, 143 mg | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(=O)C2CCCCC2)C=C(C1)C(F)(F)F)(F)F | C26H24F9N5O
reactant | methylmagnesium bromide | 3.0M | C[Mg]Br
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.75 mmol, 0.25 mL | O1CCCC1 | C4H8O
product | 1-(2-{[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-1-cyclohexyl-ethanol | 158 mg, 108% yield | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(C)(O)C2CCCCC2)C=C(C1)C(F)(F)F)(F)F | C27H28F9N5O
